US06531502B1
A mixture of 103 mg 6-(3-methoxyphenyl)-2-oxindole, 95 mg 3-(2-formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid and piperidine (3 drops) in ethanol (2 mL) was heated in sealed tube to 90° C. and held there overnight. The reaction mixture was concentrated and acidified with 6 N hydrochloric acid. The precipitate that formed was collected by filtration and washed with water and hexane to give 156 mg of 3-{2-[6-(3-methoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-4,5,6,7-tetrahydro-1H-indol-3-yl}-propionic acid as a brown solid (82%).

reactant | 6-(3-methoxyphenyl)-2-oxindole | 103 mg | COC=1C=C(C=CC1)C1=CC=C2CC(NC2=C1)=O | C15H13NO2
reactant | 3-(2-formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid | 95 mg | C(=O)C=1NC=2CCCCC2C1CCC(=O)O | C12H15NO3
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-{2-[6-(3-methoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-4,5,6,7-tetrahydro-1H-indol-3-yl}-propionic acid | 156 mg, 82% | COC=1C=C(C=CC1)C1=CC=C2C(C(NC2=C1)=O)=CC=1NC=2CCCCC2C1CCC(=O)O | C27H26N2O4
